US06054587
To a solution of 0.53 g (1.49 mmol) 2-(diethylphosphonomethylaminocarbonyl)-7-nitroindole in 7 mL acetonitrile was added 2 mL of bromotrimethylsilane at 0° C. The reaction mixture was allowed to stir at room temperature overnight. The solvent and excess bromotrimethylsilane were removed under reduced pressure and 10 mL of a 1/1 mixture of acetone/water was added and stirred for 24 hours at room temperature. A precipitate formed and the solid was filtered and dried to give 0.45 g (1.47 mmol, 99%) of 2-(phosphonomethylaminocarbonyl)-7-nitroindole.

reactant | 2-(diethylphosphonomethylaminocarbonyl)-7-nitroindole | 1.49 mmol, 0.53 g | C(C)OP(=O)(OCC)CNC(=O)C=1NC2=C(C=CC=C2C1)[N+](=O)[O-] | C14H18N3O6P
reactant | bromotrimethylsilane | 2 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 2-(phosphonomethylaminocarbonyl)-7-nitroindole | 1.47 mmol, 0.45 g, 99% | P(=O)(O)(O)CNC(=O)C=1NC2=C(C=CC=C2C1)[N+](=O)[O-] | C10H10N3O6P
